US07354920B2
a) (2-Isopropoxy-phenyl)-methanol
A mixture of 2-hydroxybenzyl alcohol (21.04 g, 1 equiv., available from Aldrich Chemical Company), 2-isopropyl iodide (32.3 mL, 1.9 equiv., available from Aldrich Chemical Company) and K2CO3 (71.42 g, 3 equiv.) in ethanol was refluxed for 3 hours. On cooling the reaction mixture was filtered and the solvent removed under reduced pressure and replaced with dichloromethane, and then filtered and the solvent removed to give the title compound as an oil (27.751 g, 99%). 1H NMR (300 MHz, CDCl3): δ 1.37 (d, 6H, J=6.0 Hz), 3.55 (bs, 1H), 4.50-4.70 (m, 3H), 6.78-6.90 (m, 2H), 7.15-7.25 (m, 2H).

reactant | 2-hydroxybenzyl alcohol | 21.04 g, 1 equiv. | OC1=C(CO)C=CC=C1 | C7H8O2
reactant | K2CO3 | 71.42 g, 3 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | ethanol | C(C)O | C2H6O
product | (2-Isopropoxy-phenyl)-methanol | 27.751 g, 99% | C(C)(C)OC1=C(C=CC=C1)CO | C10H14O2
